US05641430
Preparation of trans-4-(4-chloro-3-methylphenyloxymethyl)-1-n-heptyl-1-silacyclohexane
The general procedure of Example 9 was repeated using 4-chloro-3-methylphenol and 4-bromomethyl-1-n-heptyl-1-phenyl-1-silacyclohexane, thereby obtaining the intended compound.

reactant | 4-chloro-3-methylphenol | ClC1=C(C=C(C=C1)O)C | C7H7ClO
reactant | 4-bromomethyl-1-n-heptyl-1-phenyl-1-silacyclohexane | BrCC1CC[Si](CC1)(C1=CC=CC=C1)CCCCCCC | C19H31BrSi
product | trans-4-(4-chloro-3-methylphenyloxymethyl)-1-n-heptyl-1-silacyclohexane | ClC1=C(C=C(C=C1)OC[C@@H]1CC[Si@H](CC1)CCCCCCC)C | C20H33ClOSi
